US08492582B2
Trifluoroacetic acid (1 mL) was added to a methylene chloride (3 mL) solution of the obtained tert-butyl 2-(2-hydroxy-5-phenylbenzamido)-4-phenylbenzoate (0.085 g), followed by stirring at room temperature for 17 hours. The solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. The solid substance was collected by filtration to obtain 0.072 g of 2-(2-hydroxy-5-phenylbenzamido)-4-phenylbenzoic acid as a white solid.

reactant | Trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(2-hydroxy-5-phenylbenzamido)-4-phenylbenzoate | 0.085 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=CC=CC=C1 | C30H27NO4
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-hydroxy-5-phenylbenzamido)-4-phenylbenzoic acid | 0.072 g | OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)C1=CC=CC=C1 | C26H19NO4
